data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC(C)C_2-c1ccccc1C_3-CC(F)(F)F_4-C(C(F)(F)F)C(F)(F)F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC(C)CC(=O)[H]","c1ccccc1COC(=O)CP(=O)(OCC(F)(F)F)(OC(C(F)(F)F)C(F)(F)F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC(C)C/C=C\\C(=O)Oc1ccccc1C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1COC(=O)[CH-]P(=O)(OCC(F)(F)F)(OC(C(F)(F)F)C(F)(F)F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C(P(=O)(OCC(F)(F)F)(OC(C(F)(F)F)C(F)(F)F))C([O-])CC(C)C","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C1C(CC(C)C)OP1([O-])(OCC(F)(F)F)(OC(C(F)(F)F)C(F)(F)F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(C)C/C=C\\C(=O)Oc1ccccc1C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
